US08003677B2
N-(3-Hydroxypentyl)-6-[5-(2-bromo-5-methoxybenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]pyridazine-3-carboxamide
N-(3-Hydroxypentyl)-6-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)pyridazine-3-carboxamide, trifluoroacetate (466 mg, 0.464 mmol) were reacted with 2-bromo-5-methoxybenzoic acid after activation with HATU analogously to example 3f. M+H+: 530.02.

reactant | N-(3-Hydroxypentyl)-6-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)pyridazine-3-carboxamide | OC(CCNC(=O)C=1N=NC(=CC1)N1CC=2CNCC2C1)CC | C16H23N5O2
reactant | trifluoroacetate | 0.464 mmol, 466 mg | FC(C(=O)[O-])(F)F
reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | N-(3-Hydroxypentyl)-6-[5-(2-bromo-5-methoxybenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]pyridazine-3-carboxamide | OC(CCNC(=O)C=1N=NC(=CC1)N1CC=2CN(CC2C1)C(C1=C(C=CC(=C1)OC)Br)=O)CC | C24H28BrN5O4
